US05840732
ii) Synthesis of 4-(imidazo[1,2-a]pyridin-5-ylthio)butanoic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide hydrochloride
To a methanol solution of 683 mg (1.2 mmol) of 4-(imidazo[1,2-a]pyridin-5-ylthio)butanoic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide, 0.5 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was washed with ether to yield 658 mg (90.7%, white crystal) of the desired product.

reactant | 4-(imidazo[1,2-a]pyridin-5-ylthio)butanoic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide | 1.2 mmol, 683 mg | O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CCCSC2=CC=CC=1N2C=CN1)=O)=O)=O | C27H29N5O5S2
reactant | hydrochloric acid ethyl acetate | 4N, 0.5 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 4-(imidazo[1,2-a]pyridin-5-ylthio)butanoic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide hydrochloride | Cl.O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CCCSC2=CC=CC=1N2C=CN1)=O)=O)=O | InChI=1S/C27H29N5O5S2.ClH/c33-22(11-5-18-38-23-12-4-10-21-28-14-17-30(21)23)29-13-6-15-31-25(34)24(20-8-2-1-3-9-20)26-32(27(31)35)16-7-19-39(26,36)37;/h1-4,8-10,12,14,17H,5-7,11,13,15-16,18-19H2,(H,29,33);1H
